** Name: SymmetricalOpAmp189

.MACRO SymmetricalOpAmp189 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=11e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=292e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=5e-6 W=292e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=7e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=86e-6
mNormalTransistorNmos7 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=5e-6 W=292e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=86e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=74e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=313e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=312e-6
mNormalTransistorNmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=292e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=327e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=3e-6 W=85e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=3e-6 W=85e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=327e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=66e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=146e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=146e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp189

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 1.77901 mW
** Area: 14750 (mu_m)^2
** Transit frequency: 14.0161 MHz
** Transit frequency with error factor: 14.0159 MHz
** Slew rate: 22.0528 V/mu_s
** Phase margin: 68.755°
** CMRR: 143 dB
** negPSRR: 47 dB
** posPSRR: 42 dB
** VoutMax: 4.33001 V
** VoutMin: 0.700001 V
** VcmMax: 5.20001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 23.6901 muA
** NormalTransistorPmos: -49.8459 muA
** NormalTransistorPmos: -49.8469 muA
** NormalTransistorPmos: -49.8459 muA
** NormalTransistorPmos: -49.8469 muA
** NormalTransistorNmos: 99.6901 muA
** NormalTransistorNmos: 99.6911 muA
** NormalTransistorNmos: 49.8451 muA
** NormalTransistorNmos: 49.8451 muA
** NormalTransistorNmos: 111.232 muA
** DiodeTransistorNmos: 111.232 muA
** NormalTransistorPmos: -111.231 muA
** NormalTransistorPmos: -111.232 muA
** DiodeTransistorNmos: 111.232 muA
** NormalTransistorNmos: 111.232 muA
** NormalTransistorPmos: -111.231 muA
** NormalTransistorPmos: -111.232 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -23.6909 muA


** Expected Voltages: 
** ibias: 1.21401  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.555001  V
** inSourceTransconductanceComplementarySecondStage: 4.22901  V
** innerComplementarySecondStage: 1.11001  V
** out: 2.5  V
** out1FirstStage: 4.23001  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.658001  V
** innerTransistorStack1Load1: 4.41001  V
** innerTransistorStack2Load1: 4.41001  V
** sourceTransconductance: 1.84601  V
** innerTransconductance: 4.71701  V
** inner: 0.555001  V
** inner: 4.71701  V


.END