** Name: SymmetricalOpAmp25

.MACRO SymmetricalOpAmp25 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=39e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=559e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=559e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=166e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=66e-6
mNormalTransistorNmos9 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=1e-6 W=152e-6
mNormalTransistorNmos10 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=151e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=66e-6
mNormalTransistorNmos12 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos14 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=132e-6
mNormalTransistorNmos15 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=132e-6
mNormalTransistorPmos16 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=441e-6
mNormalTransistorPmos17 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=256e-6
mNormalTransistorPmos18 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=256e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=591e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=591e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp25

** Expected Performance Values: 
** Gain: 84 dB
** Power consumption: 9.96701 mW
** Area: 9749 (mu_m)^2
** Transit frequency: 15.2191 MHz
** Transit frequency with error factor: 15.2189 MHz
** Slew rate: 71.4917 V/mu_s
** Phase margin: 65.8902°
** CMRR: 134 dB
** negPSRR: 63 dB
** posPSRR: 39 dB
** VoutMax: 4.46001 V
** VoutMin: 0.350001 V
** VcmMax: 4.58001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 15.3951 muA
** NormalTransistorNmos: 182.761 muA
** NormalTransistorPmos: -393.577 muA
** DiodeTransistorPmos: -335.214 muA
** DiodeTransistorPmos: -335.214 muA
** NormalTransistorNmos: 670.428 muA
** NormalTransistorNmos: 335.215 muA
** NormalTransistorNmos: 335.215 muA
** NormalTransistorNmos: 360.574 muA
** NormalTransistorNmos: 360.573 muA
** NormalTransistorPmos: -360.573 muA
** NormalTransistorPmos: -360.572 muA
** NormalTransistorNmos: 360.574 muA
** NormalTransistorNmos: 360.573 muA
** NormalTransistorPmos: -360.573 muA
** NormalTransistorPmos: -360.572 muA
** DiodeTransistorNmos: 393.578 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -15.3959 muA
** DiodeTransistorPmos: -182.76 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.752001  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.17601  V
** innerComplementarySecondStage: 0.584001  V
** out: 2.5  V
** outFirstStage: 4.17601  V
** outVoltageBiasXXpXX0: 4.21201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.35701  V
** innerStageBias: 0.179001  V
** innerTransconductance: 4.53001  V
** inner: 0.179001  V
** inner: 4.53001  V


.END