** Name: SymmetricalOpAmp27

.MACRO SymmetricalOpAmp27 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=29e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=193e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=43e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=43e-6
mNormalTransistorNmos6 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=8e-6 W=289e-6
mNormalTransistorNmos7 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=16e-6
mNormalTransistorNmos8 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=193e-6
mNormalTransistorNmos9 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=43e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=16e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=8e-6 W=600e-6
mNormalTransistorPmos12 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=528e-6
mNormalTransistorPmos13 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=528e-6
mNormalTransistorPmos14 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=87e-6
mNormalTransistorPmos15 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=87e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp27

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 3.72801 mW
** Area: 10353 (mu_m)^2
** Transit frequency: 13.7791 MHz
** Transit frequency with error factor: 13.7787 MHz
** Slew rate: 42.2472 V/mu_s
** Phase margin: 79.6412°
** CMRR: 137 dB
** negPSRR: 49 dB
** posPSRR: 51 dB
** VoutMax: 4.48001 V
** VoutMin: 0.870001 V
** VcmMax: 4.47001 V
** VcmMin: 1.07001 V


** Expected Currents: 
** NormalTransistorNmos: 100.08 muA
** DiodeTransistorPmos: -103.889 muA
** DiodeTransistorPmos: -103.889 muA
** NormalTransistorNmos: 207.778 muA
** NormalTransistorNmos: 103.89 muA
** NormalTransistorNmos: 103.89 muA
** NormalTransistorNmos: 213.827 muA
** DiodeTransistorNmos: 213.826 muA
** NormalTransistorPmos: -213.826 muA
** NormalTransistorPmos: -213.825 muA
** NormalTransistorNmos: 213.827 muA
** NormalTransistorPmos: -213.826 muA
** NormalTransistorPmos: -213.825 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -100.079 muA


** Expected Voltages: 
** ibias: 0.585001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.06701  V
** inStageBiasComplementarySecondStage: 0.633001  V
** innerComplementarySecondStage: 1.28001  V
** out: 2.5  V
** outFirstStage: 4.06701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.61301  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END