** Name: SymmetricalOpAmp59

.MACRO SymmetricalOpAmp59 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=1e-6 W=39e-6
mDiodeTransistorNmos3 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=15e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos5 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=11e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=58e-6
mNormalTransistorNmos8 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=39e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=58e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=232e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=102e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mNormalTransistorPmos13 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp59

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 1.34901 mW
** Area: 1936 (mu_m)^2
** Transit frequency: 15.9641 MHz
** Transit frequency with error factor: 15.9636 MHz
** Slew rate: 14.9267 V/mu_s
** Phase margin: 79.6412°
** CMRR: 94 dB
** negPSRR: 103 dB
** posPSRR: 53 dB
** VoutMax: 4.25 V
** VoutMin: 0.760001 V
** VcmMax: 4.09001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** DiodeTransistorPmos: -55.2359 muA
** DiodeTransistorPmos: -55.2359 muA
** NormalTransistorNmos: 110.47 muA
** NormalTransistorNmos: 110.47 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 74.7261 muA
** NormalTransistorNmos: 74.7251 muA
** NormalTransistorPmos: -74.7269 muA
** DiodeTransistorNmos: 74.6421 muA
** DiodeTransistorNmos: 74.6411 muA
** NormalTransistorPmos: -74.6429 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA


** Expected Voltages: 
** ibias: 1.13701  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.609001  V
** inTransconductanceComplementarySecondStage: 3.68601  V
** innerComplementarySecondStage: 1.16401  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.505001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.608001  V


.END